US04118511
2-(butylamino)-4-(1-naphthyloxy)-1-butanol, described in Example 6, with acetic anhydride, followed by reduction, gives 2-(butylethylamino)-4-(1-naphthyloxy)-1-butanol.

reactant | 2-(butylamino)-4-(1-naphthyloxy)-1-butanol | C(CCC)NC(CO)CCOC1=CC=CC2=CC=CC=C12 | C18H25NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(butylethylamino)-4-(1-naphthyloxy)-1-butanol | C(CCC)N(C(CO)CCOC1=CC=CC2=CC=CC=C12)CC | C20H29NO2
